US07323475B2
a) 4-Hydroxy-1-(pyridin-3-yloxy)-isoquinoline-3-carboxylic acid butyl ester
Synthesized from 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester and pyridin-3-ol in analogy to Example D-20 d); MS-(+)-ion: M+1=339.1.

reactant | 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | pyridin-3-ol | N1=CC(=CC=C1)O | C5H5NO
product | 4-Hydroxy-1-(pyridin-3-yloxy)-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)OC=1C=NC=CC1 | C19H18N2O4
